* HSPICE Timing Acquisition
* Liberty NCX vC-2009.06-SP1
* Build(Jul 16 2009)
* Filename: /home/Rezayi/Desktop/NCXtemplate/creation/PassTransistor/Xor3/tOut_C_0004f/tOut_C_0004f.sp

* combinational Fall
* Driver Waveform Type: snps_predriver
* Pin Name: Out
* Related Input Pin: C
* Input Waveform: Fall
* input_threshold_pct_rise: 7.58
* output_threshold_pct_rise: 50.00
* input_threshold_pct_fall: 92.42
* output_threshold_pct_fall: 50.00
* slew_lower_threshold_pct_rise: 20.00
* slew_upper_threshold_pct_rise: 80.00
* slew_lower_threshold_pct_fall: 20.00
* slew_upper_threshold_pct_fall: 80.00
* capacitance_lower_threshold_pct_rise: 0.50
* capacitance_upper_threshold_pct_rise: 80.00
* capacitance_lower_threshold_pct_fall: 20.00
* capacitance_upper_threshold_pct_fall: 99.50
* slew_derate_from_library: 1.00
* Clock Width(ps): 1000.000000

* Pin Signal Voltage Level:
* Pin A:		 H=1.320000	 L=0.000000
* Pin Ap:		 H=1.320000	 L=0.000000
* Pin Bp:		 H=1.320000	 L=0.000000
* Pin B:		 H=1.320000	 L=0.000000
* Pin C:		 H=1.320000	 L=0.000000
* Pin Cp:		 H=1.320000	 L=0.000000
* Pin Out:		 H=1.320000	 L=0.000000

* Lib Slew Index(ps): 10.000000
* Input Transition Time(ps): 10.000000
* Lib Load Index(ff): 0.000000
* TEMPERATURE ==========================
.TEMP 2.500000e+01

* MODELS ===============================
.prot 
.inc '/home/Rezayi/Desktop/NCXtemplate/creation/../model.typ'
.unprot 
.option brief

* CELL SUBCKT ==========================
.inc '/home/Rezayi/Desktop/NCXtemplate/creation/../netlists/xor3.spc'

* OPTIONS ==============================
* NCX Default Options:
.OPTIONS POST=1 PROBE POST_VERSION=2001
+ INGOLD=2 NOMOD NOPAGE NUMDGT=10 MEASDGT=10
+ LIMPTS=500000 ICSWEEP=0 AUTOSTOP ALTCC=1
+ RUNLVL=5 ACCURATE=1
+ ABSVAR=1.000000e-03 RELVAR=1.000000e-02
* (ACCURATE=1 sets these control options: LVLtim=3 DVDT=2 RELVAR=0.2 ABSVAR=0.2 FT=0.2 RELMOS=0.01)
* (ACCURATE=0 uses default control options: LVLtim=1 DVDT=4 RELVAR=0.3 ABSVAR=0.5 FT=0.25 RELMOS=0.05)
* End of NCX Default Options.

* Lib Level Options:
* No Lib Level Options Here
* Cell Level Options:
* No Cell Level Options Here
* Pin Level Options:
* No Pin Level Options Here
* Arc Level Options:
* No Arc Level Options Here

* VOLTAGE SOURCES ======================
.GLOBAL VDD VSS
Vn_VDD VDD 0 DC 1.320000e+00
Vn_VSS VSS 0 DC 0.000000e+00

* ACQUISITION CIRCUIT ==================
X_Xor3 n_a n_ap n_b n_bp n_c n_cp n_out Xor3 
Vn_A n_A n_A2 DC 0
Vn_Ap n_Ap n_Ap2 DC 0
Vn_Bp n_Bp n_Bp2 DC 0
Vn_B n_B n_B2 DC 0
Vn_C n_C n_C2 DC 0
Vn_Cp n_Cp n_Cp2 DC 0
Vn_Out n_Out n_Out1 DC 0
CLD_Out n_Out1 0 cap_Out
.PROBE TRAN V(n_Out1)
.PARAM SideCap = 0.0000000000e+00

* PROBE ================================
.PROBE TRAN V(n_Out) I(Vn_Out) V(n_A) I(Vn_A) V(n_Ap) I(Vn_Ap) V(n_Bp) I(Vn_Bp) V(n_B) I(Vn_B) V(n_C) I(Vn_C) V(n_Cp) I(Vn_Cp) I(Vn_VDD) I(Vn_VSS)

* STIMULI ==============================
* InPin A PWL length=2 
* InPin Ap PWL length=2 
* InPin Bp PWL length=2 
* InPin B PWL length=2 
* InPin C PWL length=16 
* InPin Cp PWL length=2 
* Sensitization Template Name: Xor3_wave_0_66
* SensInputs= A: 	0
* SensInputs= Ap: 	0
* SensInputs= Bp: 	0
* SensInputs= B: 	0
* SensInputs= C: 	10
* SensInputs= Cp: 	0
* SensOuputs= Out: 	10

* nc_td: Measurement Starting time
* adrv_cap: Active Driver Output Load
* iptr: Input Transition Time
* cap_PIN: Relative Output Pin Load
.DATA stimdata
index nc_td adrv_cap iptr cap_Out
+ t_A0 v_A0 t_A1 v_A1
+ t_Ap0 v_Ap0 t_Ap1 v_Ap1
+ t_Bp0 v_Bp0 t_Bp1 v_Bp1
+ t_B0 v_B0 t_B1 v_B1
+ t_C0 v_C0 t_C1 v_C1 t_C2 v_C2 t_C3 v_C3 t_C4 v_C4 t_C5 v_C5 t_C6 v_C6 t_C7 v_C7 t_C8 v_C8 t_C9 v_C9
+ t_C10 v_C10 t_C11 v_C11 t_C12 v_C12 t_C13 v_C13 t_C14 v_C14 t_C15 v_C15
+ t_Cp0 v_Cp0 t_Cp1 v_Cp1
* Input Slew Index= 1.0000000000e-11 (IPTR = 1.0000000000e-11) ======================================================================
* Waveform to Side Pin A (Full swing = 1.000000e-11):
* 0.0000000000e+00 0.0000000000e+00 1.0000000000e-07 0.0000000000e+00
* Waveform to Side Pin Ap (Full swing = 1.000000e-11):
* 0.0000000000e+00 0.0000000000e+00 1.0000000000e-07 0.0000000000e+00
* Waveform to Side Pin Bp (Full swing = 1.000000e-11):
* 0.0000000000e+00 0.0000000000e+00 1.0000000000e-07 0.0000000000e+00
* Waveform to Side Pin B (Full swing = 1.000000e-11):
* 0.0000000000e+00 0.0000000000e+00 1.0000000000e-07 0.0000000000e+00
* Stimlus to RelatedInPin C (Slew Index = 1.000000e-11, Slew = 1.000000e-11, Full swing = 1.666667e-11):
* 0.0000000000e+00 1.3200000000e+00 1.0000000000e-09 1.3200000000e+00 1.0100000000e-09 1.3200000000e+00 1.0116666667e-09 1.2540000000e+00 1.0133333333e-09 1.0560000000e+00
* 1.0150000000e-09 8.8107387772e-01 1.0166666667e-09 7.2861915717e-01 1.0183333333e-09 5.9400000000e-01 1.0200000000e-09 4.7353693886e-01 1.0216666667e-09 3.6430957859e-01
* 1.0233333333e-09 2.6400000000e-01 1.0250000000e-09 1.7076846943e-01 1.0266666667e-09 8.3154789293e-02 1.0283333333e-09 0.0000000000e+00 1.0300000000e-09 0.0000000000e+00
* 1.0316666667e-09 0.0000000000e+00
* Waveform to Side Pin Cp (Full swing = 1.000000e-11):
* 0.0000000000e+00 0.0000000000e+00 1.0000000000e-07 0.0000000000e+00
* Input Slew Index = 1.000000e-11, IPTR = 1.000000e-11, Output Load = 0.000000e+00 *************************************
  1 1.0100000000e-09 5.0000000000e-12 1.0000000000e-11 0.0000000000e+00
+ 0.0000000000e+00 0.0000000000e+00 1.0000000000e-07 0.0000000000e+00 0.0000000000e+00 0.0000000000e+00 1.0000000000e-07 0.0000000000e+00 0.0000000000e+00 0.0000000000e+00
+ 1.0000000000e-07 0.0000000000e+00 0.0000000000e+00 0.0000000000e+00 1.0000000000e-07 0.0000000000e+00 0.0000000000e+00 1.3200000000e+00 1.0000000000e-09 1.3200000000e+00
+ 1.0100000000e-09 1.3200000000e+00 1.0116666667e-09 1.2540000000e+00 1.0133333333e-09 1.0560000000e+00 1.0150000000e-09 8.8107387772e-01 1.0166666667e-09 7.2861915717e-01
+ 1.0183333333e-09 5.9400000000e-01 1.0200000000e-09 4.7353693886e-01 1.0216666667e-09 3.6430957859e-01 1.0233333333e-09 2.6400000000e-01 1.0250000000e-09 1.7076846943e-01
+ 1.0266666667e-09 8.3154789293e-02 1.0283333333e-09 0.0000000000e+00 1.0300000000e-09 0.0000000000e+00 1.0316666667e-09 0.0000000000e+00 0.0000000000e+00 0.0000000000e+00
+ 1.0000000000e-07 0.0000000000e+00
.ENDDATA 

* for Input Pin A
Vn_A2 n_A2 0 PWL(
+'t_A0' 'v_A0'
+'t_A1' 'v_A1'
+)
* for Input Pin Ap
Vn_Ap2 n_Ap2 0 PWL(
+'t_Ap0' 'v_Ap0'
+'t_Ap1' 'v_Ap1'
+)
* for Input Pin Bp
Vn_Bp2 n_Bp2 0 PWL(
+'t_Bp0' 'v_Bp0'
+'t_Bp1' 'v_Bp1'
+)
* for Input Pin B
Vn_B2 n_B2 0 PWL(
+'t_B0' 'v_B0'
+'t_B1' 'v_B1'
+)
* for Input Pin C
Vn_C2 n_C2 0 PWL(
+'t_C0' 'v_C0'
+'t_C1' 'v_C1'
+'t_C2' 'v_C2'
+'t_C3' 'v_C3'
+'t_C4' 'v_C4'
+'t_C5' 'v_C5'
+'t_C6' 'v_C6'
+'t_C7' 'v_C7'
+'t_C8' 'v_C8'
+'t_C9' 'v_C9'
+'t_C10' 'v_C10'
+'t_C11' 'v_C11'
+'t_C12' 'v_C12'
+'t_C13' 'v_C13'
+'t_C14' 'v_C14'
+'t_C15' 'v_C15'
+)
* for Input Pin Cp
Vn_Cp2 n_Cp2 0 PWL(
+'t_Cp0' 'v_Cp0'
+'t_Cp1' 'v_Cp1'
+)

* .TRAN ==========================
.TRAN 1.0000000000e-10 1.2000000000e-08 START = 0.0 sweep data=stimdata
* InPin A PWL length=2 Sens=0
* InPin Ap PWL length=2 Sens=0
* InPin Bp PWL length=2 Sens=0
* InPin B PWL length=2 Sens=0
* InPin C PWL length=16 Sens=10
* InPin Cp PWL length=2 Sens=0

* MEASUREMENT ==========================

* Measure Gate Delay
.MEASURE TRAN nc_delay_C_Out
* input is falling: vL=0.000000e+00, vH=1.320000e+00
+ trig V(n_C) val = 1.2199440000e+00 td = 'nc_td' cross = 1
* output is falling: vL=0.000000e+00, vH=1.320000e+00
+ targ V(n_Out) val = 6.6000000000e-01 td = 'nc_td' cross = 1

* Measure Input Reference Time
.MEASURE nc_inref_C WHEN V(n_C) = 1.2199440000e+00 td = 'nc_td' cross = 1
* input is falling

* Measure Gate Output Transition Time
.MEASURE TRAN nc_optr_Out
+ trig V(n_Out) val = 1.0560000000e+00 td = 'nc_td' cross = 1
+ targ V(n_Out) val = 2.6400000000e-01 td = 'nc_td' cross = 1

* Measure Full Swing Output Transition Time (0.5% to 99.5%)
.MEASURE TRAN nc_fulloptr_Out
+ trig V(n_Out) val = 1.3134000000e+00 td = 'nc_td' cross = 1
+ targ V(n_Out) val = 6.6000000000e-03 td = 'nc_td' cross = 1

* Measure Input Trip Points
.MEASURE t_C_trip1 WHEN V(n_C) = 1.0560000000e+00 td = 'nc_td' cross = 1
.MEASURE t_C_trip2 WHEN V(n_C) = 2.6400000000e-01 td = 'nc_td' cross = 1

* Measure Input End Points(Fall)
.MEASURE t_stop_C WHEN V(n_C) = 6.6000000000e-02 td = 'nc_td' cross = 1

* Simulation Stop time with AutoSTOP
.MEASURE t_stop_Out WHEN V(n_Out) = 6.6000000000e-03 td = 'nc_td' cross = 1
.MEASURE t_simstop PARAM = 'max(t_stop_Out, t_stop_C)'

* Measure Input Capacitance
.MEASURE t_C_trip_incap1 WHEN V(n_C) = 1.3134000000e+00 td = 'nc_td' cross = 1
.MEASURE t_C_trip_incap2 WHEN V(n_C) = 2.6400000000e-01 td = 'nc_td' cross = 1
.MEASURE TRAN nc_intg_i_C INTEG I(Vn_C) FROM = 't_C_trip_incap1' TO = 't_C_trip_incap2'
.MEASURE TRAN nc_intg_i1_C INTEG I(Vn_C) FROM = 't_C_trip_incap1' TO = 'nc_inref_C'
.MEASURE TRAN nc_intg_i2_C INTEG I(Vn_C) FROM = 'nc_inref_C' TO = 't_C_trip_incap2'
.MEASURE TRAN nc_incap_C param='ABS(nc_intg_i_C/1.0494000000e+00)'
.MEASURE TRAN nc_incap_c1_C param='ABS(nc_intg_i1_C/9.3456000000e-02)'
.MEASURE TRAN nc_incap_c2_C param='ABS(nc_intg_i2_C/9.5594400000e-01)'

* Measure Input Transition Time
.MEASURE TRAN nc_iptr_C PARAM = 'iptr'
.MEASURE TRAN real_iptr_C
+ trig V(n_C) val = 1.0560000000e+00 td = 'nc_td' cross = 1
+ targ V(n_C) val = 2.6400000000e-01 td = 'nc_td' cross = 1
.MEASURE TRAN nc_when_A param = '0' 
.MEASURE TRAN nc_when_Ap param = '0' 
.MEASURE TRAN nc_when_Bp param = '0' 
.MEASURE TRAN nc_when_B param = '0' 
.MEASURE TRAN nc_when_C param = '0' 
.MEASURE TRAN nc_when_Cp param = '0' 
.MEASURE TRAN nc_when_Out param = '0' 

* Measure Leakage Currents
.MEASURE TRAN nc_leak_i_A AVG I(Vn_A) FROM = 't_C0' TO = 't_C1'
.MEASURE TRAN nc_leak_i_Ap AVG I(Vn_Ap) FROM = 't_C0' TO = 't_C1'
.MEASURE TRAN nc_leak_i_Bp AVG I(Vn_Bp) FROM = 't_C0' TO = 't_C1'
.MEASURE TRAN nc_leak_i_B AVG I(Vn_B) FROM = 't_C0' TO = 't_C1'
.MEASURE TRAN nc_leak_i_C AVG I(Vn_C) FROM = 't_C0' TO = 't_C1'
.MEASURE TRAN nc_leak_i_Cp AVG I(Vn_Cp) FROM = 't_C0' TO = 't_C1'
.MEASURE TRAN nc_leak_i_VDD AVG I(Vn_VDD) FROM = 't_C0' TO = 't_C1'
.MEASURE TRAN nc_leak_i_VSS AVG I(Vn_VSS) FROM = 't_C0' TO = 't_C1'

* Measure Dynamic Energy 
.MEASURE TRAN nc_dyn_energy INTEG par(' -(I(Vn_VDD)*V(VDD)) -(I(Vn_VSS)*V(VSS))') From= 'nc_td' TO = 't_simstop'

* Energy Integral period 
.MEASURE TRAN t_int_energy PARAM = 't_simstop - nc_td'

* Measure Internal Energy 
.MEASURE TRAN nc_int_energy PARAM = 'nc_dyn_energy' 

* Measure Dynamic Energy in Power Supply
.MEASURE TRAN nc_dyn_eng_VDD INTEG par(' -(I(Vn_VDD)*V(VDD))') From= 'nc_td' TO = 't_simstop'
.MEASURE TRAN nc_dyn_eng_VSS INTEG par(' -(I(Vn_VSS)*V(VSS))') From= 'nc_td' TO = 't_simstop'

* Measure Dynamic ABS Energy
.MEASURE TRAN nc_dyn_abs_energy INTEG par(' +ABS(I(Vn_VDD)*V(VDD)) +ABS(I(Vn_VSS)*V(VSS))') From= 'nc_td' TO = 't_simstop'

* Measure total charge
.MEASURE TRAN nc_charge_VDD INTEG I(Vn_VDD) From= 'nc_td' TO = 't_simstop'
.MEASURE TRAN nc_charge_VSS INTEG I(Vn_VSS) From= 'nc_td' TO = 't_simstop'

* Load for Side Output pin
.MEASURE TRAN nc_sidecap PARAM = 'SideCap'

* Use Default Output Load
.MEASURE TRAN def_cap_Out PARAM = 'cap_Out'



.END 
